US08492378B2
tert-butyl[4-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-2-pyridyl]carbamate
A solution of tert-butyl[4-[[2-[3-(3-fluorophenyl)propanoyl]hydrazino]carbonyl]-2-pyridyl]carbamate (1.00 g, 2.48 mmol), p-toluenesulfonyl chloride (946 mg, 4.96 mmol) and triethylamine (1.72 mL, 12.4 mmol) in tetrahydrofuran (30 mL) was heated under reflux for 17 hr. After cooling, the reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=95/5-0/100), and recrystallized from ethyl acetate to give the title compound (0.70 g, yield 73%) as colorless crystals.

reactant | tert-butyl[4-[[2-[3-(3-fluorophenyl)propanoyl]hydrazino]carbonyl]-2-pyridyl]carbamate | 2.48 mmol, 1.00 g | C(C)(C)(C)OC(NC1=NC=CC(=C1)C(=O)NNC(CCC1=CC(=CC=C1)F)=O)=O | C20H23FN4O4
reactant | p-toluenesulfonyl chloride | 4.96 mmol, 946 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 12.4 mmol, 1.72 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl[4-[5-[2-(3-fluorophenyl)ethyl]-1,3,4-oxadiazol-2-yl]-2-pyridyl]carbamate | 0.70 g, yield 73% | C(C)(C)(C)OC(NC1=NC=CC(=C1)C=1OC(=NN1)CCC1=CC(=CC=C1)F)=O | C20H21FN4O3
